US06984646B2
1-(4-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone
The compound is prepared as described in example XXXXIII with 2.00 g (14.68 mmol) 2-methyl-4,5,6,7-tetrahydro-1H-benzimidazole, 6.98 g (44.05 mmol) of 4-fluorobenzoyl chloride and 4.90 g (48.42 mmol) of TEA in 50 ml acetonitrile. The crude intermediate is directly transformed into 1-(2,4-Difluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-ethanone to yield 737 mg (10.7% of th.).

reactant | 2-methyl-4,5,6,7-tetrahydro-1H-benzimidazole | 14.68 mmol, 2.00 g | CC1=NC2=C(N1)CCCC2 | C8H12N2
reactant | 4-fluorobenzoyl chloride | 44.05 mmol, 6.98 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 1-(2,4-Difluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-ethanone | FC1=C(C=CC(=C1)F)C(CC1=NC2=C(N1)CCCC2)=O | C15H14F2N2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(4-Fluorophenyl)-2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)ethanone | FC1=CC=C(C=C1)C(CC1=NC2=C(N1)CCCC2)=O | C15H15FN2O
